US07601751B2
2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetic acid
Step I (2): To a solution of methyl 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetate (80 mg, 0.22 mmol) in THF (2.0 mL) was added a solution of LiOH (16 mg, 0.66 mmol) in water (0.5 mL). The mixture was stirred at rt for 3 h. 100 mL of EtOAc was added, and the resulting solution was washed with 0.1 N HCl and water. The organic layer was dried over Na2SO4, and the solvents was removed to give the title compound 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetic acid which was used without further purification. MS (ESI) (M+H)+=355.03.

reactant | methyl 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetate | 0.22 mmol, 80 mg | BrC=1C=C2C(=C(NC2=CC1)C(NC(C)(C)C)=O)CC(=O)OC | C16H19BrN2O3
reactant | LiOH | 0.66 mmol, 16 mg | [Li+].[OH-]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetic acid | BrC=1C=C2C(=C(NC2=CC1)C(NC(C)(C)C)=O)CC(=O)O | C15H17BrN2O3
